US06562828B1
Synthesis of 4-(2-Amidino-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl)-1-(pyridin-4-yl)piperidine-4-carboxylic Acid
4-(2-Amidino-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl)-1-(pyridin-4-yl)piperidine-4-carboxylic acid dihydrochloride (11 g) was dissolved in water (100 ml) and filtrated. 4N Aqueous sodium hydroxide solution (20 ml) was added dropwise at 50° C., and the mixture was stirred at the same temperature for 30 min. After completion of the reaction, the resultant solid was collected by filtration, washed successively with water and ethanol, and dried under reduced pressure to give the title compound (7.7 g).

reactant | 4-(2-Amidino-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl)-1-(pyridin-4-yl)piperidine-4-carboxylic acid dihydrochloride | 11 g | Cl.Cl.C(N)(=N)N1CC2=CC(=CC=C2CC1)OCC1(CCN(CC1)C1=CC=NC=C1)C(=O)O
solvent | water | 100 ml | O | H2O
product | 4-(2-Amidino-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl)-1-(pyridin-4-yl)piperidine-4-carboxylic Acid | 7.7 g | C(N)(=N)N1CC2=CC(=CC=C2CC1)OCC1(CCN(CC1)C1=CC=NC=C1)C(=O)O | C22H27N5O3
